US06392104B1
In toluene (100 mL) was dissolved 10 mmole of 1-acetyloxy-3-aminoadamantane obtained by the method of Example 15. To the resultant solution was added 12 mmole of phosgene at room temperature and the mixture was stirred for 6 hours. As a result, the conversion of 1-acetyloxy-3-aminoadamantane was 95% and 1-acetyloxy-3-isocyanatoadamantane (yield 85%) was obtained.

reactant | 1-acetyloxy-3-aminoadamantane | 10 mmole | C(C)(=O)OC12CC3(CC(CC(C1)C3)C2)N | C12H19NO2
reactant | phosgene | 12 mmole | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-acetyloxy-3-isocyanatoadamantane | yield 85% | C(C)(=O)OC12CC3(CC(CC(C1)C3)C2)N=C=O | C13H17NO3
